US09278931B2
B) N-[4-(trans-2-aminocyclopropyl)phenyl]-3-methylbenzamide hydrochloride
tert-Butyl [trans-2-(4-{[(3-methylphenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate (141 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (2 mL). The mixture was stirred at room temperature for 2 hr and the solvent was evaporated under reduced pressure to give the title compound (51.6 mg).

reactant | tert-Butyl [trans-2-(4-{[(3-methylphenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate | 141 mg | CC=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C22H26N2O3
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-methylbenzamide hydrochloride | 51.6 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C)=O | InChI=1S/C17H18N2O.ClH/c1-11-3-2-4-13(9-11)17(20)19-14-7-5-12(6-8-14)15-10-16(15)18;/h2-9,15-16H,10,18H2,1H3,(H,19,20);1H/t15-,16+;/m0./s1
